US06713482B2
A mixture of 2,5,6-trimethyl-1H-benzimidazole (1.5 g, 9.4 mmol) and benzaldehyde (5.0 g, 47 mmol) was heated to 200° C. for 3 h in a sealed tube. The reaction mixture was cooled to room temperature and then ether (50 ml) was added. The precipitated solids were collected by filtration to afford 300 mg (13%) of (E)-5,6-dimethyl-2-styryl-1H-benzimidazole as light yellow solids. 1H-NMR (CDCl3) δ: 8.39-8.33 (1H, m), 7.58-7.47 (2H, m), 7.24-7.16 (5H, m), 6.82 (1H, d, J=16.5 Hz), 5.20 (1H, br.s), 2.13 (6H, s).

reactant | 2,5,6-trimethyl-1H-benzimidazole | 9.4 mmol, 1.5 g | CC1=NC2=C(N1)C=C(C(=C2)C)C | C10H12N2
reactant | benzaldehyde | 47 mmol, 5.0 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | ether | 50 ml | CCOCC | C4H10O
product | (E)-5,6-dimethyl-2-styryl-1H-benzimidazole | 300 mg, 13% | CC1=CC2=C(NC(=N2)\C=C\C2=CC=CC=C2)C=C1C | C17H16N2
